US08791107B2
(R)-2-(2-(difluoromethyl)-1H-benzo[d]imidazol-1-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
A mixture of (R)-2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x10 50 mg, 0.127 mmol), 2-(difluoromethyl)-1H-benzo[d]imidazole (21.29 mg, 0.127 mmol), cesium carbonate (61.9 mg, 0.190 mmol), tris(dibenzylideneacetone)dipalladium(0) (4.64 mg, 5.06 μmol) and 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (4.83 mg, 10.13 μmol) in DMF 253 μL was heated to 130° C. in a microwave for 40 minutes. Additional tris(dibenzylideneacetone)dipalladium(0) (4.64 mg, 5.06 μmol) and 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (4.83 mg, 10.13 μmol) were added, and the reaction mixture was heated to 130° C. in a microwave for 1 hour. EtOAc and water were added and the mixture was filtered through Celite and extracted with EtOAc (2×). The combined extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2—NH2, 30-100% EtOAc/hexane gradient) to afford the title compound as a yellow solid (14.3 mg, 21.4%). 1H NMR (400 MHz, CDCl3) δ 3.08 (s, 3H), 3.19-3.38 (m, 4H), 3.68 (td, J=12.00, 2.78 Hz, 1H), 3.83-3.92 (m, 1H), 3.94-4.02 (m, 1H), 4.11-4.20 (m, 1H), 4.44-4.63 (m, 3H), 7.36-7.75 (m, 6H), 7.93-8.01 (m, 3H), 8.17-8.23 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H24F2N6O3S, 527.16. found 527.3.

reactant | (R)-2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.127 mmol, 50 mg | ClC1=NC=2N3[C@H](CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 2-(difluoromethyl)-1H-benzo[d]imidazole | 0.127 mmol, 21.29 mg | FC(C1=NC2=C(N1)C=CC=C2)F | C8H6F2N2
reactant | cesium carbonate | 0.190 mmol, 61.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 10.13 μmol, 4.83 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 10.13 μmol, 4.83 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | DMF | 253 μL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5.06 μmol, 4.64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5.06 μmol, 4.64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(2-(difluoromethyl)-1H-benzo[d]imidazol-1-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 14.3 mg, 21.4% | FC(C1=NC2=C(N1C1=NC=3N4[C@H](CN(C3C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC4)C=CC=C2)F | C25H24F2N6O3S
